US09029360B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-isopropyl-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-methanone
The title compound was prepared in accordance with the general method of example 1 from 0.25 mmol 6-chloro-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid, 0.30 mmol HATU, 1.27 mmol DIPEA and 0.51 mmol 2-isopropyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine in 1 mL DMF. The reaction mixture was purified by HPLC chromatography and lyophilized. Yield: 24 mg (25% of theory). ESI-MS: m/z=376 (M+H)+.

reactant | 6-chloro-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid | 0.25 mmol | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | HATU | 0.30 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.27 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-isopropyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine | 0.51 mmol | C(C)(C)C=1SC2=C(CCNCC2)N1 | C10H16N2S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-isopropyl-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)SC(=N1)C(C)C | C17H18ClN5OS
